US08558002B2
To the degassed mixture of dimethyl 5,5′-{N-[(6-amino-5-iodopyridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate (234 mg, 0.434 mmol, 1.0 equiv.), 4-ethynylaniline (76.3 mg, 0.651 mmol, 1.5 equiv.), and triethylamine (0.242 mL, 1.736 mmol, 4.0 equiv.) in anhydrous DMF (2 mL) under nitrogen atmosphere was added CuI (16.5 mg, 0.087 mmol, 0.2 equiv.) and PdCl2(Ph3P)2 (30.5 mg, 0.043 mmol, 0.1 equiv.). The reaction mixture was stirred at room temperature for 15 minutes. The reaction was then diluted with EtOAc, washed with sat. aq. NaHCO3, aq. NH4Cl, and brine, and lastly dried with anhydrous Na2SO4. The solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:3 to EtOAc) yielding dimethyl 5,5′-[N-({6-amino-5-[(4-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate as brown oil (220 mg).

reactant | dimethyl 5,5′-{N-[(6-amino-5-iodopyridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate | 0.434 mmol, 234 mg, 1.0 equiv. | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)I | C18H26IN3O6S
reactant | 4-ethynylaniline | 0.651 mmol, 76.3 mg, 1.5 equiv. | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | triethylamine | 1.736 mmol, 0.242 mL, 4.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.087 mmol, 16.5 mg, 0.2 equiv. | [Cu]I
product | dimethyl 5,5′-[N-({6-amino-5-[(4-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate | 220 mg | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC=C(C=C1)N | C26H32N4O6S
